US07488789B2
(2) Synthesis of (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(4-tert-butyl-phenyl)methane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 0.653 g of fluorene (3.93 mmol) was dissolved in 50 ml of dehydrated diethylether in a nitrogen atmosphere. To the solution, 2.7 ml of n-butyl lithium/hexane solution (1.58M: 4.27 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. To the solution, a solution prepared by dissolving 2.09 g of 3-tert-butyl-1-methyl-6,6-di(4-tert-butyl-phenyl)fulvene (5.06 mmol) in 100 ml of dehydrated diethyl ether was added and stirred under reflux for 10 days and then stirred at room temperature for 11 days. To the reaction mixture, 30 ml of distilled water was gradually added dropwise in an ice bath, and then diethyl ether was added to separate an organic phase. The organic phase was washed with distilled water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a reddish-brown solid. The solid was purified with a column chromatography using 150 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure. The remaining product was re-crystallized using hexane and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 0.439 g (0.758 mmol) as a pale yellow solid (yield: 19%).

reactant | fluorene | 3.93 mmol, 0.653 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 4.27 mmol, 1.58M, 2.7 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-di(4-tert-butyl-phenyl)fulvene | 5.06 mmol, 2.09 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C)C | C31H40
reactant | water | 30 ml | O | H2O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(4-tert-butyl-phenyl)methane | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC=C(C=C1)C(C)(C)C)(C1=CC=C(C=C1)C(C)(C)C)C1=CC=CC=2C3=CC=CC=C3CC12 | C44H50
